US07211577B2
Preparation of 4-diethylaminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 9(4), 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one and diethylamine were reacted to yield the title compound as a pale yellow oil (yield: 95.0%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)C | C17H22N2O4S
reactant | diethylamine | C(C)NCC | C4H11N
product | 4-diethylaminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one | yield: 95.0% | C(C)N(CC)CC=1C(N(N=C(C1)C1=CC=C(C=C1)C)CC(C)C)=O | C20H29N3O
